US07582644B2
i) 2-Fluoro-3-methoxybenzoic acid
Pentamethylenediethylenetetramine (31.2 ml) was added to a solution of 2-fluoroanisole (15.0 g) in TB (450 ml). The reaction mixture was cooled to −78° C. and n-butyllithium (59.6 ml, 2.5M solution in hexanes) was added dropwise. Stirring was maintained for 2 h before the solution was added in a dropwise fashion to a flask containing solid carbon dioxide pellets. Upon complete addition (30 min) the mixture was allowed to warm to room temperature before removal of the volatiles in vacuo. The residue was dissolved in 10% sodium hydroxide solution (300 ml) and extracted with Et2O (3×). The aqueous was acidified to pH 1 with concentrated hydrochloric acid before extracting with DCM. The organics were washed with H2O, dried (MgSO4) and concentrated in vacuo to afford the subtitle compound as a yellow solid. Yield: 7.1 g.

reactant | 2-fluoroanisole | 15.0 g | FC1=C(C=CC=C1)OC | C7H7FO
reactant | n-butyllithium | 2.5M, 59.6 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | sodium hydroxide | 300 ml | [OH-].[Na+]
product | 2-Fluoro-3-methoxybenzoic acid | FC1=C(C(=O)O)C=CC=C1OC | C8H7FO3
